US04287374
A mixture of potassium fluoride (61.5 g; 1.06 mole), 2-chloronitrobenzene (157.5 g; 1.0 mole) and sulpholane (88.8 g; 0.74 mole) was heated to 140° C. for 28 hours. 2-Fluoronitrobenzene was obtained in 16% yield together with 61% recovered 2-chloronitrobenzene.

reactant | potassium fluoride | 1.06 mole, 61.5 g | [F-].[K+]
reactant | 2-chloronitrobenzene | 1.0 mole, 157.5 g | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | sulpholane | 0.74 mole, 88.8 g | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-Fluoronitrobenzene | 16% yield | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
